US08242280B2
Step 2: Synthesis of 2-(2-amino-5-bromo-pyridin-3-yl)-N,N-dimethyl-2-oxo-acetamide
2-(5-Bromo-2-fluoro-pyridin-3-yl)-N,N-dimethyl-2-oxo-acetamide (948 mg, 3.45 mmol) was treated with saturated ammonia solution in ethyl alcohol (10 mL) in a sealed vial at 50° C. for 1 h. The reaction was complete and the mixture was dried in vacuo and used crude in the next step. MS: m/z 272 (M+H+).

reactant | 2-(5-Bromo-2-fluoro-pyridin-3-yl)-N,N-dimethyl-2-oxo-acetamide | 3.45 mmol, 948 mg | BrC=1C=C(C(=NC1)F)C(C(=O)N(C)C)=O | C9H8BrFN2O2
reactant | ammonia | N | H3N
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | 2-(2-amino-5-bromo-pyridin-3-yl)-N,N-dimethyl-2-oxo-acetamide | NC1=NC=C(C=C1C(C(=O)N(C)C)=O)Br | C9H10BrN3O2
